US09353075B2
Step 2. Preparation of (2R,3S)-3-hydroxy-2-({[(5-phenylpentyl)oxy]carbonyl}amino)butanoic acid
In a round bottom flask, NaHCO3 (12.0 g, 143.2 mmol) was suspended in THF (30 mL) and water (60 mL), then D-threonine (6.8 g, 56.8 mmol) was added followed by 5-phenylpentyl chlorocarbonate (14.3 g, 63.1 mmol) and a catalytic amount (0.67 g) of tetrabutylamonium bromide. After stirring 18 h at rt, the mixture was diluted with water, washed twice with Et2O and pH adjusted to 2 with 2M HCl solution. The aqueous phase was extracted with AcOEt (4×150 mL), the collected organic phases were washed with brine, dried over Na2SO4, filtered and the solvent removed under vacuum. The crude was purified by typical silica gel column chromatography, eluting with Cy/AcOEt (20:80+1% CH3COOH), yielding the title compound (3.15 g, 18%), as pale yellow oil. Rf=0.38 (Cy/AcOEt 2:8+1% CH3COOH). FTIR (cm−1): 3332 (br), 3027, 2935, 2859, 1714, 1530, 1454, 1415, 1257, 1072, 1007, 963, 870, 779, 748, 700. 1H NMR (CDCl3): δ 1.26 (d, 3H); 1.39 (m, 2H); 1.62-1.68 (m, 4H); 2.61 (t, 2H); 4.08 (t, 2H); 4.34 (d, 1H); 4.42 (d, 1H); 5.68 (d, 1H); 7.16-7.78 (m, 3H); 7.26-7.28 (m, 2H).

reactant | NaHCO3 | 143.2 mmol, 12.0 g | C(=O)(O)[O-].[Na+]
reactant | D-threonine | 56.8 mmol, 6.8 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | 5-phenylpentyl chlorocarbonate | 63.1 mmol, 14.3 g | C(OCCCCCC1=CC=CC=C1)(=O)Cl | C12H15ClO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
catalyst | tetrabutylamonium bromide | 0.67 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R,3S)-3-hydroxy-2-({[(5-phenylpentyl)oxy]carbonyl}amino)butanoic acid | 3.15 g, 18% | O[C@H]([C@H](C(=O)O)NC(=O)OCCCCCC1=CC=CC=C1)C | C16H23NO5
